US07683067B2
6-Bromo-5-(chloroacetyl)-1,3-dihydro-2H-indol-2-one
Chloroacetyl chloride (0.65 mL, 8.2 mmol) was added to a cooled (0° C.) suspension of 6-bromooxindol (0.825 g, 3.9 mmol) and aluminium chloride (1.82 g, 13.6 mmol) in 1,2-dichloroethane (8 mL). The resulting mixture was stirred at 0° C. for 20 min and at 50° C. for 17 h. The mixture was cooled to room temperature and was then poured on ice. The formed solid was filtered off, washed with water, and dried in vacuo to give 1.10 g (99% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 7.69 (s, 1H), 7.09 (s, 1H), 4.97 (s, 2H), 3.52 (s, 2H).

reactant | Chloroacetyl chloride | 8.2 mmol, 0.65 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 6-bromooxindol | 3.9 mmol, 0.825 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | aluminium chloride | 13.6 mmol, 1.82 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
product | 6-Bromo-5-(chloroacetyl)-1,3-dihydro-2H-indol-2-one | 1.10 g, 99% yield | BrC1=C(C=C2CC(NC2=C1)=O)C(CCl)=O | C10H7BrClNO2
